US04223137
3 ml of isobutyric anhydride was added to 1 g of 5-(1-hydroxy-2-isopropylaminobutyl)-8-hydroxycarbostyril, and the mixture was stirred for 30 minutes at a temperature of 60° C. Petroleum ether was added to the reaction mixture, and the mixture was adjusted to a pH of 1-2 with concentrated hydrochloric acid. The precipitate formed was separated by filtration and, after drying the precipitate, it was recrystallized from a mixture of methanol and diethyl ether to obtain 1.1 g of 5-(1-isobutyryloxy-2-isopropylaminobutyl)-8-isobutyryloxycarbostyril hydrochloride monohydrate having a melting point of 198°-199° C.

reactant | isobutyric anhydride | 3 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | 5-(1-hydroxy-2-isopropylaminobutyl)-8-hydroxycarbostyril | 1 g | OC(C(CC)NC(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C16H22N2O3
reactant | hydrochloric acid | Cl | ClH
product | 5-(1-isobutyryloxy-2-isopropylaminobutyl)-8-isobutyryloxycarbostyril hydrochloride monohydrate | 1.1 g | O.Cl.C(C(C)C)(=O)OC(C(CC)NC(C)C)C1=C2C=CC(NC2=C(C=C1)OC(C(C)C)=O)=O | InChI=1S/C24H34N2O5.ClH.H2O/c1-8-18(25-15(6)7)22(31-24(29)14(4)5)17-9-11-19(30-23(28)13(2)3)21-16(17)10-12-20(27)26-21;;/h9-15,18,22,25H,8H2,1-7H3,(H,26,27);1H;1H2
